US05500426
Step a: N-benzyl-N-methylaminoethanol
A mixture consisting of 151 g (1 mol) of N-benzylaminoethanol, 120 ml of 90% formic acid, 120 ml of a 35% aqueous formaldehyde solution and 1 liter of methanol is heated under reflux for 20 hours. The solvent is evaporated off in vacuo and the residue is treated with an aqueous sodium hydroxide solution and then extracted with methylene chloride. After customary treatment, the product is purified by distillation. 138 g of the desired product are obtained.

reactant | N-benzylaminoethanol | 1 mol, 151 g | C(C1=CC=CC=C1)NC(C)O | C9H13NO
reactant | formic acid | 120 ml | C(=O)O | CH2O2
reactant | formaldehyde | C=O | CH2O
solvent | methanol | 1 liter | CO | CH4O
product | N-benzyl-N-methylaminoethanol | 138 g, Yield: 84% | C(C1=CC=CC=C1)N(C)C(C)O | C10H15NO
